2169-02-11 06:51:00 Physician Resident Progress Note
Chief Complaint: hypoxia and respiratory distress
   24 Hour Events:
   -Sodium 169->166 (over 6 hours)->165->158 this morning
   -ABG ok 7.41/34/116
   -urine lytes-very pre-renal
   -renal u/s-no hydronephrosis
   -500 cc bolus NS X 2 for decreased MAPs and low urine output.
   -negative for FLU
   -weaned to 35% aerosolized facemask (from 100% NRB)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2169-2-10**] 02:00 PM
   Ceftriaxone - [**2169-2-10**] 05:00 PM
   Levofloxacin - [**2169-2-10**] 05:37 PM
   Metronidazole - [**2169-2-10**] 08:00 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2169-2-11**] 12:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-11**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 35.3
C (95.6
   HR: 61 (61 - 100) bpm
   BP: 95/29(46) {83/29(43) - 132/68(79)} mmHg
   RR: 19 (19 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,613 mL
                                                                    875 mL
   PO:
             TF:
   IVF:
                                                                  2,613 mL
                                                                    850 mL
   Blood products:
   Total out:
                                                                    205 mL
                                                                    160 mL
   Urine:
                                                                    205 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,408 mL
                                                                    715 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: 7.41/34/116/19/-1
   PaO2 / FiO2: 331
   Physical Examination
   GEN: elderly, cachetic female, grimaces and groans to deep sternal rub
   and pain
   HEENT: PERRL, dry MM,
   NECK: neck veins flat, carotid pulses brisk, no cervical
   lymphadenopathy, trachea midline
   COR: RRR, no audible murmur
   PULM: diffuse rhonchi
   ABD: Soft, ND, bs+, no HSM, no masses
   EXT: No edema
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   275 K/uL
   8.7 g/dL
   140 mg/dL
   2.5 mg/dL
   19 mEq/L
   3.5 mEq/L
   109 mg/dL
   127 mEq/L
   158 mEq/L
   26.9 %
   27.9 K/uL
        [image002.jpg]
                            [**2169-2-10**]  02:17 PM
                            [**2169-2-10**]  05:10 PM
                            [**2169-2-11**]  04:01 AM
   WBC
   27.9
   Hct
   26.9
   Plt
   275
   Cr
   2.9
   2.5
   TropT
   0.12
   TCO2
   22
   Glucose
   327
   140
   Other labs: CK / CKMB / Troponin-T:36/2/0.12, Lactic Acid:2.0 mmol/L,
   Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   This is a [**Age over 90 **] year-old female with a history of dementia and HTN who
   presents with unresponsiveness, hypoxia, and fevers.
   # Fever/leukocytosis/hypoxia
 Likely [**3-19**] aspiration pneumonia given
   CXR, difficulty swallowing, thick secretions.  Viral etiologies ruled
   out, legionella antigen negative.  NGTD in urine or blood cultures.
   - Cover broadly with IV vancomycin (dosing by level given CrCl), change
   meningitic to PNA dosing of ceftriaxone, continue levaquin, and also
   continue PO flagyl for C.diff until we rule it out given recent ABX
   use.
   - Follow-up blood and urine cxs.
   - Check c. diff toxins when stool
   - Hold on LP for now as has other derangements that are likely
   contributing to pt's AMS and fever. If pt's AMS and fever do not
   improve with treatment of PNA, hyperNa, and ARF, will need to consider
   treating for empiric course for meningitis, consider LP.
   - IV fluid boluses) if needed to maintain MAP > 65 and UOP > 20cc/hr
   - Trend WBC count and fever curve.
   -swallow eval when able to cooperate
   .
   # Hypernatremia - Likely [**3-19**] decreased/poor po intake in addition to
   lasix administration ( BUN/Cr ratio > 20, ARF, appears very dry on
   exam).   Likely a chronic issue so can decrease at goal of  0.5/hr.  We
   had to change d5 to 1/2NS [**3-19**] hyperglycemia and this has continued to
   do well.
   - Continue 1/NS @125, q6h sodium checks, adjust rate as needed
   - Hold lasix.
   .
   # Acute renal failure
 Cr 2.5-2.9-2.5. Last Cr in OMR in [**2162**] 0.8. As
   above, likely prerenal cause as no eosinophils in urine to indicate AIN
   (recent ABX) and renal ultrasound normal so no obstruction.  Associated
   anion-gap metabolic acidosis is improved this morning (12 from 18) and
   was likely [**3-19**] uremia.
   - Renally dose meds.
   - Hold lasix.
   .
   # Altered Mental Status
 Likely [**3-19**] infection and hypernatremia and
   uremia. ABG without significant hypercarbia. Improving this morning
   with improved oxygenation and serum sodium.  LFTs and TSH WNL.
   - Covering broadly with IV abxs as above.
   - Check urine/serum tox.
   - Hold sedating medications; home celexa, trazodone.
   - Replete free water deficit as above.
   .
   # Hyperglycemia - No documented h/o diabetes.  Improved when D/C
d D5.
   - Check FS q6h and cover with HISS.
   .
   # HTN - Maintaining BPs currently. Not on anti-HTNs as outpt beyond
   lasix.
   - Holding lasix as above.
   .
   # Dementia - Not on cholinesterase inhibitors as outpt.
   .
   # FEN: NPO, replete lytes prn.
   .
   # Access: PIV X 1, PICC requested
   .
   # PPx: hep SQ tid, bowel regimen
   .
   # Code: DNR/DNI, copy of form in chart. Neice would like to be called
   if patient will require pressors.
   .
   # Dispo: ICU level of care for now
   .
   # Comm: next of [**Doctor First Name **] listed in chart [**Name (NI) 3083**] [**Last Name (NamePattern1) 3084**], [**Telephone/Fax (1) 3085**] (h),
   [**Telephone/Fax (1) 3086**] (c). [**Name8 (MD) **] RN, niece from VT coming in tonight.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-2-10**] 01:51 PM
   22 Gauge - [**2169-2-10**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
        [**Age over 90 **] yo F NH resident with h/o dementia and htn presents with
   f/leukocytosis, hypoxemic resp failure from LLL pna, ARF, dehydration
   and altered MS [**First Name (Titles) **] [**Last Name (Titles) 3106**] hypernatremia.
         Overnight sodium improving with hydration and correction of FWD.
   Remains on vanco/ctx/levo/ flagyl for presumed asp pna (NH coverage).
   R/o for flu.  O2 weaned from 100% NRB to 35% FM.  Urine outpt
   responding to IVF boluses.
   Exam notable for Tm 101--> AF  BP 83
s/68  HR 60-100   RR with sat
   95%  on  FM 35%.
   Cachectic elderly F, easily aroused, unable to follow commands, verbal
   responses to stimuli and voice but difficult to comprehend, coarse
   rhonci, RR, + BS, soft NT, moving all 4 ext
   Labs notable for 27.9 (30.1) WBC, na 158 (169) K+ , Cr 2.5 (2.9) ([**2162**]
   b/l 0.8)
   U na 16 (on lasix)
   MICRO--neg flu, lg ag neg, bl/urine ngtd
   CXR--evolving rml/rll process, possible retrocardiac infiltrate
   [**Age over 90 **] yo F NH resident with h/o dementia and htn presents with
     * Altered ms
     * [**Age over 90 **] hypernatremia (improving)
     * ARF
     * Sepsis
     * fevers
     * leukocytosis
     * resp distress/hypoxia/pna (prob asp)
     * hyperglycemia
   Agree with plan to continue supportive care for septic presentation.
   Will taper antibx to vanco/ctx for pna, continuing empiric c diff
   treatment with flagyl given significant leukocytosis, recent course of
   levoflox, and NH resident although no diarrhea and benign abd exam.
   (Would r/o by c diff X 3).   Will d/c levoflox as s/p 1 wk course at NH
   prior to admit and with neg urine leg ag. Is maintaining BP without
   pressor support.  Have been able to taper o2 with improvement in resp
   distress.  CXR now with evolving RMl and probable retrocadiac process.
   Given significant aspiration risk will keep hob elevation and continue
   sx
ing, chest PT as tolerated.  Will need swallow eval once able to
   coop.
        Exam and labs most c/w pre-renal presentation / dehyrdration with
   poor PO and diuretics at NH.  Cr is slowly responding to IVF hydration
   and maintaining good urine output.
        AMS likely from infection/hypernatremia. Have low suspicion for
   CNS infection and MS improving slowly with na correction, fluids,
   antibx. Would recheck abg to assess for CO2 retention contributing.
   Correcting na slowly with 1/2 ns as process appears aub acute over
   atleast days to 1 wk.  Continue to hold all sedating mediations/psych
   meds for now.  Check TSH.
        Hyperglycemia has improved since changing IVF from d5w.
   Continuing SSI.  Has no reported hx of DM.
        PIV access--would proceed with PICC in anticipation of prolonged
   antibiotic course.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2169-2-11**] 01:51 PM ------

2169-02-12 08:27:00 Physician Resident Progress Note
Chief Complaint: Hypoxia and respiratory distress
   24 Hour Events:
   - Na q6H (165 => 165 => 160 => 147 this AM). Changed IVFs to D5W @ 55
   mL/hr => 100 mL/hr yesterday and then decreased to 50 mL/hr this AM
   - Repeat ABG 7.40/32/88 on lessened oxygen requirement (aerosolized
   face tent, 35% fi02)
   - Urine cx with > 100,000 GNRs, currently on ceftriaxone
   - Blood cultures NGTD
   - Rapid respiratory viral screen/cx neg for adeno, paraflu, influenza,
   and RSV
   - Changed FS from q4H to q6H
   - Started some albuterol nebs for exp. wheezes
   - Low u/o (~40 mL) requiring 2 LR boluses o/n (250, 500) => u/o remains
   low this AM with < 30 mL/hr in 7 hours since midnight
   - Stool c.diff toxin assay sent due to diarrhea
   Patient unable to provide history: Patient non-communicative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2169-2-10**] 02:00 PM
   Metronidazole - [**2169-2-11**] 08:00 AM
   Vancomycin - [**2169-2-11**] 10:30 AM
   Ceftriaxone - [**2169-2-11**] 03:00 PM
   Levofloxacin - [**2169-2-11**] 04:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-2-11**] 10:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable to be obtained due to patient
s altered
   mental status and [**Year (4 digits) 3106**] difficulty hearing.
   Flowsheet Data as of  [**2169-2-12**] 08:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 85 (64 - 97) bpm
   BP: 102/42(57) {90/30(49) - 117/50(65)} mmHg
   RR: 22 (17 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,103 mL
                                                                  1,372 mL
   PO:
             TF:
   IVF:
                                                                  3,078 mL
                                                                  1,372 mL
   Blood products:
   Total out:
                                                                    740 mL
                                                                    220 mL
   Urine:
                                                                    740 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,363 mL
                                                                  1,152 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: 7.40/32/87.[**Numeric Identifier 274**]/19/-3
   PaO2 / FiO2: 176
   Physical Examination
   General Appearance: Elderly and thin female who makes unintelligible
   vocalizations throughout exam
   Eyes / Conjunctiva: Bilateral and equal arcus senilis
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RR, nl S1, nl S2, no M/R/G
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : diffusely bilaterally,
   Rhonchorous: diffusely bilaterally), Paradoxical abdominal movement
   with long expiratory phase
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Patient is alert, but not interactive and unable to follow
   simple commands.
   Labs / Radiology
   291 K/uL
   7.6 g/dL
   207 mg/dL
   2.1 mg/dL
   19 mEq/L
   3.8 mEq/L
   84 mg/dL
   114 mEq/L
   147 mEq/L
   25.2 %
   23.7 K/uL
        [image002.jpg]
                            [**2169-2-10**]  02:17 PM
                            [**2169-2-10**]  05:10 PM
                            [**2169-2-11**]  04:01 AM
                            [**2169-2-11**]  11:20 AM
                            [**2169-2-11**]  03:05 PM
                            [**2169-2-11**]  06:10 PM
                            [**2169-2-11**]  11:39 PM
                            [**2169-2-12**]  05:45 AM
   WBC
   27.9
   23.7
   Hct
   26.9
   25.2
   Plt
   275
   291
   Cr
   2.9
   2.5
   2.4
   2.2
   2.2
   2.1
   TropT
   0.12
   TCO2
   22
   21
   Glucose
   327
   140
   123
   137
   128
   207
   Other labs: CK / CKMB / Troponin-T:36/2/0.12, Lactic Acid:1.9 mmol/L,
   Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   [**Age over 90 **] year-old female with a history of dementia and HTN who presents
   with unresponsiveness, hypoxia, and fevers. Mental status is improved
   from admission with patient being more alert and interactive.
   # Fever/leukocytosis/hypoxia:
   Likely secondary to aspiration pneumonia given CXR appearance,
   difficulty swallowing, thick secretions.  Viral etiologies ruled out,
   legionella antigen negative.  NGTD in blood cultures. Urine culture
   revealed Proteus that is resistant to most antibiotics, but sensitive
   to Tobramycin.
   - Cover broadly with IV vancomycin (dosing by level given CrCl),
   ceftriaxone, and metronidazole.
   - Follow-up blood cx, NGTD
   - Follow-up c.diff toxin
   - IV fluid boluses if needed to maintain MAP > 65 and UOP > 20cc/hr
   - Trend WBC count and fever curve.
   - Swallow eval tomorrow AM if mental status continues to improve
   # Hypernatremia:
   Likely secondary to decreased/poor po intake in addition to lasix
   administration (BUN/Cr ratio > 20, ARF, appears very dry on exam).
   Likely a chronic issue so can decrease at goal of  0.5/hr. Patient had
   acute drop overnight from 160 to 147 this AM in setting of increasing
   D5W rate to 100 mL/hr overnight.
   - Set fluids at 50 mL/hr D5W
   - Sodium checks Q6H with adjust in fluid rate as needed
   - Continue to hold lasix.
   # Acute renal failure:
   Cr is 2.1 this AM and downtrending from 2.9 since admission. Last Cr in
   OMR in [**2162**] was 0.8. As above, likely prerenal cause as no eosinophils
   in urine to indicate AIN (recent ABX) and renal ultrasound normal so no
   obstruction.
   - Renally dose meds
   - Continue to hold lasix
   # Altered Mental Status:
   Likely secondary to infection and hypernatremia and uremia. ABG without
   significant hypercarbia. Improving this morning with improved
   oxygenation and serum sodium.  LFTs and TSH WNL. Serum tox was negative
   aside from acetaminophen on [**2-10**]/1008. Urine tox from [**2169-2-10**] was
   negative.
   - Covering broadly with IV abxs as above
   - Hold sedating medications; home celexa, trazodone
   - Replete free water deficit as above
   # Hyperglycemia:
   No documented h/o diabetes. Likely related to D5W infusion. Serum
   glucose was 207 this AM.
   - Check FS q6h and cover with HISS.
   # Dementia:
   Not on cholinesterase inhibitors as outpt.
   ICU Care
   Nutrition:
   Comments: NPO as Diet except Meds.
   Glycemic Control:  Comments: HISS
   Lines:
   20 Gauge - [**2169-2-10**] 01:51 PM
   22 Gauge - [**2169-2-10**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Next of [**Doctor First Name **] listed in chart [**First Name8 (NamePattern2) 3083**] [**Last Name (NamePattern1) 3084**],
   [**Telephone/Fax (1) 3085**] (h), [**Telephone/Fax (1) 3086**] (c).
   Code status: DNR / DNI
   Disposition: ICU while awaiting further resolution of hypoxia
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
        [**Age over 90 **] yo F NH resident with h/o dementia and htn presented with
   sepsis--f/leukocytosis, hypoxemic resp failure from pna, ARF,
   dehydration and altered MS [**First Name (Titles) **] [**Last Name (Titles) 3106**] hypernatremia.
         Sodium continues to improve with hydration and correction of
   FWD.  Remains on vanco/ctx/flagyl for presumed asp pna (NH coverage).
   Weaning O2.
   Exam notable for Tm AF, BP 100/42 HR 60-100   RR 22 with sat 97% on FM
   35%, 2.4L pos/24 hrs
   Cachectic elderly F, much more awake today, hard of hearing and unable
   to follow commands, in NAD, coarse rhonci and wheeze diffusely, RR, +
   BS, soft NT, moving all 4 ext
   Labs notable for  WBC 24 (27.9<--30.1), Hct 25.2, na 147 (158), ,
   Cr 2.1 (2.9) ([**2162**] b/l 0.8)
   MICRO--neg flu, lg ag neg, bl cx ngtd, urine cx --> proteus multi-drug
   resistent
   CXR--without sig change, reticular-nodular process rml/rll process,
   possible retrocardiac infiltrate though L hemidi clearer today
   [**Age over 90 **] yo F NH resident with h/o dementia and htn presents with
     * Altered ms (improving)
     * Hypernatremia (improving)
     * ARF (improving)
     * Sepsis
     * fevers
     * leukocytosis
     * UTI (proteus)
     * resp distress/hypoxia/pna (prob asp)
     * hyperglycemia
        Agree with plan to continue supportive care for septic
   presentation--clinically improving.  Continue treatment for asp (NH)
   pna and possible proteus UTI.  Proteus is multi-drug resistant, u/a was
   not grossly pos (?colonized) and pt is clinically improving on current
   antibx regimen now AF with decreased WBC ct. Will continue vanco/ctx
   for pna, continuing empiric c diff treatment with flagyl given
   significant leukocytosis, recent course of levoflox at NH, and NH
   resident although no diarrhea and benign abd exam. (Will r/o by c diff
   X 3). Discuss proteus drug [**Last Name (un) 206**] with ID team and ask micro-lab to check
   [**Last Name (un) 1540**] resistance.  Will d/c levoflox (not done yesterday) as is s/p 1 wk
   course at NH prior to admit, has neg urine leg ag and given clinical
   rsponse to current treatment.
        Continues to maintain BP without pressor support with slow
   improvement in cr and good urine outpt. Have been able to taper O2 with
   improvement in resp distress.  Appears at significant aspiration risk
   --> keep hob elevation and continue sx
ing, chest PT as tolerated.
   Very wheezy on exam--> nebs. Will need swallow eval once better able to
   coop.
        AMS likely from infection/hypernatremia.  MS is improving with na
   correction, fluids, antibx. Continue to hold all sedating
   mediations/psych meds for now.
       Hyperglycemia appears [**3-19**] D5W -->  Continuing SSI.
        PIV access--consulted for PICC in anticipation of prolonged
   antibiotic course.
   Remainder of plan as outlined above.
   Patient is critically ill, improving but remains tenuous, continue in
   ICU for now.
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2169-2-12**] 13:59 ------

2169-02-13 08:09:00 Physician Resident Progress Note
Chief Complaint: Hypoxia and fevers
   24 Hour Events:
 PICC LINE - START [**2169-2-12**] 06:33 PM
   -PICC  line placed by iv team single [**Last Name (un) 3122**] with valve. pulled back 2 cm
   post xray confirmation
   -In evening, pt with several guaiac +stools, 3 more small ones
   overnight. Hct from 25.2 to 23.6 on pm labs. Ordered 1u PRBCS to be
   given o/n (started after am labs drawn).
   -K to 4.6 after 40mEQ in 500cc overnight
   -Persistently hypernatremic to 150 in evening. Cont D5W at 100cc/hr
   plus 500cc D5 +40 kcl- to 147 on am labs- watching for signs of fluid
   overload as now +6L LOS.
   -Wheezy overnight
   -Vanco remains supratherapeutic at 25. Also on ceftriaxone and flagyl
   -Urine growing proteus sensitive only to tobramycin (also added on [**Last Name (un) **]
   to be measured for sensitivity but not yet done), U/A not overly
   impressive so not currently covering for this.
   Patient unable to provide history: Unintelligible speech
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2169-2-10**] 02:00 PM
   Vancomycin - [**2169-2-11**] 10:30 AM
   Levofloxacin - [**2169-2-11**] 04:00 PM
   Ceftriaxone - [**2169-2-12**] 02:59 PM
   Metronidazole - [**2169-2-13**] 12:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-2-12**] 10:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-13**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 80 (64 - 81) bpm
   BP: 114/55(70) {86/33(23) - 137/82(88)} mmHg
   RR: 27 (19 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  2,760 mL
                                                                    933 mL
   PO:
           TF:
   IVF:
                                                                  2,760 mL
                                                                    656 mL
   Blood products:
   277 mL
   Total out:
                                                                    755 mL
                                                                    215 mL
   Urine:
                                                                    755 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,005 mL
                                                                    718 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 93%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress, Thin, Alert and vocal
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, Dry oral mucosa
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral bases,
   Wheezes : Bilateral inspiratory and expiratory.), Paradoxical abdominal
   movement and prolonged expiratory phase.
   Abdominal: Soft, Non-tender, Bowel sounds hypoactive
   Extremities: No lower extremity edema
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed, Patient vocalizing, though speech is unintelligible.
   Patient indicates that she normally has hearing aids.
   Labs / Radiology
   256 K/uL
   7.5 g/dL
   157 mg/dL
   1.7 mg/dL
   18 mEq/L
   4.6 mEq/L
   57 mg/dL
   123 mEq/L
   147 mEq/L
   23.1 %
   18.6 K/uL
        [image002.jpg]
                            [**2169-2-11**]  04:01 AM
                            [**2169-2-11**]  11:20 AM
                            [**2169-2-11**]  03:05 PM
                            [**2169-2-11**]  06:10 PM
                            [**2169-2-11**]  11:39 PM
                            [**2169-2-12**]  05:45 AM
                            [**2169-2-12**]  01:02 PM
                            [**2169-2-12**]  06:00 PM
                            [**2169-2-12**]  08:02 PM
                            [**2169-2-13**]  03:03 AM
   WBC
   27.9
   23.7
   17.5
   18.6
   Hct
   26.9
   25.2
   23.6
   23.1
   Plt
   275
   291
   235
   256
   Cr
   2.5
   2.4
   2.2
   2.2
   2.1
   1.9
   1.8
   1.7
   TCO2
   21
   Glucose
   140
   123
   137
   128
   [**Telephone/Fax (2) 3123**]10
   157
   Other labs: CK / CKMB / Troponin-T:36/2/0.12, Lactic Acid:1.9 mmol/L,
   Albumin:2.4 g/dL, Ca++:6.9 mg/dL, Mg++:1.9 mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
   [**Age over 90 **] year-old female with a history of dementia and HTN who presents
   with unresponsiveness, hypoxia, and fevers. Mental status is improved
   from admission with patient being more alert and interactive.
   # Fever/leukocytosis/hypoxia:
   Likely secondary to aspiration pneumonia given CXR appearance,
   difficulty swallowing, thick secretions.  Viral etiologies ruled out,
   legionella antigen negative. NGTD in blood cultures. Urine culture
   revealed Proteus that is resistant to most antibiotics, but sensitive
   to Tobramycin. Has a meropenem sensitivity pending. Has been c.diff
   toxin negative x 2. Patient with pulmonary exam and CXR today
   consistent with volume overload in setting of getting hypotonic fluids
   to correct hypernatremia. Was > 2L positive fluid balance in 24 hours
   yesterday.
   - Gentle diuresis today with 10 mg IV furosemide
   - Continue to cover broadly with IV vancomycin (dosing by level given
   CrCl), ceftriaxone
   - Follow-up blood cx, NGTD
   - Follow-up one additional c.diff toxin and discontinue metronidazole
   if third c.diff toxin assay is negative
   - IV fluid boluses if needed to maintain MAP > 65 and UOP > 20cc/hr
   - Trend WBC count and fever curve.
   - Follow-up swallowing evaluation this AM
   # GI bleed:
   Patient with report of several small, dark, tarry bowel movements last
   night that were guaiac positive. Had PM HCTof 23.6 last night in
   setting of guaiac positive bowel movements and received 1U PRBC
   transfusion overnight.
   - Keep active type and cross
   - Start IV PPI
   - Follow-up HCT this AM to assure appropriate increase following 1 U
   PRBC transfusion yesterday.
   - Contact patient
s niece regarding consent for blood products.
   # Hypernatremia:
   Likely hypovolemic hypernatremia secondary to decreased/poor po intake
   in addition to lasix administration (BUN/Cr ratio > 20, ARF, appears
   very dry on exam).  Likely a chronic issue so can decrease sodium level
   at goal of  0.5/hr. Patient
s PM sodium was 150 yesterday and was 147
   this morning despite receiving hypotonic fluids all day yesterday.
   - Continue IVF at 55 mL/hr for the day today and follow-up PM sodium
   level
   - Sodium checks [**Hospital1 **] in order to adjust fluid rate
   # Acute renal failure:
   Cr is 1.7 this AM and downtrending from 2.9 since admission. Last Cr in
   OMR in [**2162**] was 0.8. As above, likely prerenal cause as no eosinophils
   in urine to indicate AIN (recent ABX) and renal ultrasound normal so no
   obstruction.
   - Renally dose meds
   # Altered Mental Status:
   Likely secondary to infection and hypernatremia and uremia. ABG without
   significant hypercarbia. LFTs and TSH WNL. Serum tox was negative aside
   from acetaminophen on [**2-10**]/1008. Urine tox from [**2169-2-10**] was
   negative. Likely that some of her speech abnormalities are related to
   difficulty hearing as patient indicates that she normally has hearing
   aids in place. Also possible that unintelligible speech impacted by
   extremely dry mouth.
   - Covering broadly with IV abxs as above
   - Hold sedating medications; home celexa, trazodone
   - Replete free water deficit as above
   - Call niece to see if patient has hearing aids at home
   - Oral care while NPO to moisten mouth
   # Hyperglycemia:
   No documented h/o diabetes. FS yesterday were all ranging 207 to 275.
   Likely related to D5W infusion. Serum glucose was 157 this AM.
   - Check FS q6h and cover with HISS.
   # Dementia:
   Not on cholinesterase inhibitors as outpt. Attempt to clarify baseline
   with patient
s niece.
   ICU Care
   Nutrition:
   NPO pending speech and swallowing evaluation
   Glycemic Control:  QID FS with HISS
   Lines:
   20 Gauge - [**2169-2-10**] 01:51 PM
   PICC Line - [**2169-2-12**] 06:33 PM
   Prophylaxis:
   DVT: Heparin subcutaneous
   Stress ulcer: On PPI for ? of GI bleed
   HAP:  Oral care while NPO
   Comments:
   Communication:  Comments: With niece
   [**Name (NI) 129**] status: DNR / DNI
   Disposition: To remain on floor while resolving hypoxia and diuresing.
   Likely to floor tomorrow if does well overnight.
   ------ Protected Section ------
   In Assessment and Plan section, under
Fever / leukocytosis / hypoxia
   section, we would also like to get a repeat urinalysis and urine
   culture given the result of resistant Proteus in prior sample. Will
   additionally consider spekaing with ID regarding treatment of this
   asymptomatic bacturia in patient as she appears to be improving without
   treatment.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3127**], MD
   on:[**2169-2-13**] 14:45 ------

2169-02-14 08:07:00 Physician Resident Progress Note
Chief Complaint: Altered mental status, fever, hypoxia
   24 Hour Events:
   - Urine culture from [**2-10**] was speciated again and revealed that
   Proteus is sensitive to ceftriaxone.
   - Repeat urinalysis and urine culture pending.
   - Swallowing evaluation revealed that patient should remain NPO.
   - Third stool c.diff toxin sent and is pending.
   - Patient received 10 mg IV lasix with very little urine output in the
   afternoon, then received 20 mg IV lasix in the evening.
   - PM HCT was 28.6, stable from post-transfusion HCT of 29.2
   - PM lytes revealed an improved creatinine to 1.6 and stable sodium at
   147, thus rate of D5W infusion was increased to 75 mL/hr.
   - Niece was contact[**Name (NI) **] regarding goals of care and feels that no feeding
   tube is warranted at this time. Niece felt that we should continue with
   antibiotics and hydration in hopes that swallowing evaluation will
   improve with time.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2169-2-11**] 04:00 PM
   Vancomycin - [**2169-2-13**] 10:55 AM
   Ceftriaxone - [**2169-2-13**] 02:00 PM
   Metronidazole - [**2169-2-13**] 11:58 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-2-13**] 08:20 AM
   Pantoprazole (Protonix) - [**2169-2-13**] 10:55 AM
   Furosemide (Lasix) - [**2169-2-13**] 09:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-14**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 95 (74 - 109) bpm
   BP: 110/56(66) {102/41(56) - 153/78(91)} mmHg
   RR: 19 (19 - 32) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,248 mL
                                                                    798 mL
   PO:
             TF:
   IVF:
                                                                  1,971 mL
                                                                    798 mL
   Blood products:
                                                                    277 mL
   Total out:
                                                                  1,195 mL
                                                                    520 mL
   Urine:
                                                                  1,195 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,053 mL
                                                                    278 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   236 K/uL
   9.2 g/dL
   143 mg/dL
   1.7 mg/dL
   19 mEq/L
   4.0 mEq/L
   41 mg/dL
   114 mEq/L
   141 mEq/L
   26.9 %
   22.1 K/uL
        [image002.jpg]
                            [**2169-2-11**]  06:10 PM
                            [**2169-2-11**]  11:39 PM
                            [**2169-2-12**]  05:45 AM
                            [**2169-2-12**]  01:02 PM
                            [**2169-2-12**]  06:00 PM
                            [**2169-2-12**]  08:02 PM
                            [**2169-2-13**]  03:03 AM
                            [**2169-2-13**]  11:00 AM
                            [**2169-2-13**]  02:00 PM
                            [**2169-2-14**]  04:24 AM
   WBC
   23.7
   17.5
   18.6
   22.1
   Hct
   25.2
   23.6
   23.1
   29.2
   28.6
   26.9
   Plt
   291
   235
   256
   236
   Cr
   2.2
   2.2
   2.1
   1.9
   1.8
   1.7
   1.6
   1.7
   Glucose
   137
   128
   207
   [**Telephone/Fax (3) 3153**]
   157
   152
   143
   Other labs: PT / PTT / INR:13.8/31.9/1.2, CK / CKMB /
   Troponin-T:36/2/0.12, Lactic Acid:1.9 mmol/L, Albumin:2.4 g/dL,
   Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   [**Age over 90 **] year-old female with a history of dementia and HTN who presents
   with unresponsiveness, hypoxia, and fevers. Mental status is improved
   from admission with patient being more alert and interactive.
   # Fever/leukocytosis/hypoxia:
   Likely secondary to aspiration pneumonia given CXR appearance,
   difficulty swallowing, thick secretions.  Viral etiologies ruled out,
   legionella antigen negative. NGTD in blood cultures. Urine culture
   revealed Proteus that is resistant to most antibiotics, but sensitive
   to Tobramycin. Has a meropenem sensitivity pending. Has been c.diff
   toxin negative x 2. Patient with pulmonary exam and CXR today
   consistent with volume overload in setting of getting hypotonic fluids
   to correct hypernatremia. Was > 2L positive fluid balance in 24 hours
   yesterday.
   - Gentle diuresis today with 10 mg IV furosemide
   - Continue to cover broadly with IV vancomycin (dosing by level given
   CrCl), ceftriaxone
   - Follow-up blood cx, NGTD
   - Follow-up one additional c.diff toxin and discontinue metronidazole
   if third c.diff toxin assay is negative
   - IV fluid boluses if needed to maintain MAP > 65 and UOP > 20cc/hr
   - Trend WBC count and fever curve.
   - Follow-up swallowing evaluation this AM
   # GI bleed:
   Patient with report of several small, dark, tarry bowel movements last
   night that were guaiac positive. Had PM HCTof 23.6 last night in
   setting of guaiac positive bowel movements and received 1U PRBC
   transfusion overnight.
   - Keep active type and cross
   - Start IV PPI
   - Follow-up HCT this AM to assure appropriate increase following 1 U
   PRBC transfusion yesterday.
   - Contact patient
s niece regarding consent for blood products.
   # Hypernatremia:
   Likely hypovolemic hypernatremia secondary to decreased/poor po intake
   in addition to lasix administration (BUN/Cr ratio > 20, ARF, appears
   very dry on exam).  Likely a chronic issue so can decrease sodium level
   at goal of  0.5/hr. Patient
s PM sodium was 150 yesterday and was 147
   this morning despite receiving hypotonic fluids all day yesterday.
   - Continue IVF at 55 mL/hr for the day today and follow-up PM sodium
   level
   - Sodium checks [**Hospital1 **] in order to adjust fluid rate
   # Acute renal failure:
   Cr is 1.7 this AM and downtrending from 2.9 since admission. Last Cr in
   OMR in [**2162**] was 0.8. As above, likely prerenal cause as no eosinophils
   in urine to indicate AIN (recent ABX) and renal ultrasound normal so no
   obstruction.
   - Renally dose meds
   # Altered Mental Status:
   Likely secondary to infection and hypernatremia and uremia. ABG without
   significant hypercarbia. LFTs and TSH WNL. Serum tox was negative aside
   from acetaminophen on [**2-10**]/1008. Urine tox from [**2169-2-10**] was
   negative. Likely that some of her speech abnormalities are related to
   difficulty hearing as patient indicates that she normally has hearing
   aids in place. Also possible that unintelligible speech impacted by
   extremely dry mouth.
   - Covering broadly with IV abxs as above
   - Hold sedating medications; home celexa, trazodone
   - Replete free water deficit as above
   - Call niece to see if patient has hearing aids at home
   - Oral care while NPO to moisten mouth
   # Hyperglycemia:
   No documented h/o diabetes. FS yesterday were all ranging 207 to 275.
   Likely related to D5W infusion. Serum glucose was 157 this AM.
   - Check FS q6h and cover with HISS.
   # Dementia:
   Not on cholinesterase inhibitors as outpt. Attempt to clarify baseline
   with patient
s niece.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2169-2-12**] 06:33 PM
   22 Gauge - [**2169-2-13**] 08:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: